US08389524B2
(i) (1R)-1-[(4-Amino-4-methyl-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione
N-(1-{[(1R)-4,9-Dioxo-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl]methyl}-4-methyl-4-piperidinyl)-2,2,2-trifluoroacetamide (171 mg, 0.417 mmol) was treated with a 7% solution of potassium carbonate (450 mg in 2 ml water/5 ml methanol) and stirred at rt for 2 h, and then at 70° C. for 18 h then evaporated and dissolved in 5% MeOH/DCM (100 ml), filtered and purified by SCX (5 g, eluting with MeOH and then 0.5M NH3/MeOH and then 2M NH3/MeOH). Fractions containing product were then evaporated to give product as a pink solid (60 mg, 46%)

reactant | N-(1-{[(1R)-4,9-Dioxo-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl]methyl}-4-methyl-4-piperidinyl)-2,2,2-trifluoroacetamide | 0.417 mmol, 171 mg | O=C1N2C=3N(C(C=CC3C=C1)=O)[C@@H](C2)CN2CCC(CC2)(C)NC(C(F)(F)F)=O | C19H21F3N4O3
reactant | potassium carbonate | 2 ml, 450 mg | C([O-])([O-])=O.[K+].[K+]
product | (1R)-1-[(4-Amino-4-methyl-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 60 mg, 46% | NC1(CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O)C | C17H22N4O2
